US05773388
Synthesis of 4-Chlorodifluoromethyl-5-(1-hydroxycyclopropylmethyl)pyrimidine (Compound No. 106)
70 g of 4-chlorodifluoromethyl-5-cyclopropylcarbonylpyrimidine was added to 100 ml of ethanol, then, 15 g of a t-butylamine borane complex was further added under cooling with ice, and the mixture was stirred at room temperature for 2 hours. After addition of 30 ml of acetone, the mixture was stirred at room temperature for 1 hour, and the solvent was distilled off under reduced pressure. 100 ml of water was added to the residue, and extraction with ethyl acetate was carried out. The extract layer was washed with water, and the solvent was distilled off under reduced pressure. The residue was dried in vacuum to obtain 45 g of the desired product. nD20.5 1.5020

reactant | 4-chlorodifluoromethyl-5-cyclopropylcarbonylpyrimidine | 70 g | ClC1=NC(=NC=C1C(=O)C1CC1)C(F)F | C9H7ClF2N2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-Chlorodifluoromethyl-5-(1-hydroxycyclopropylmethyl)pyrimidine | 45 g | ClC1=NC(=NC=C1CC1(CC1)O)C(F)F | C9H9ClF2N2O
